US05488159
To E-α-hydroxyimino-2-phenoxyphenylacetic acid (1.29 g, 0.005 mole) were added dried dimethylformamide (10 ml) and 85% potassium hydroxide (0.73 g, 0.011 mole) and the mixture was stirred at room temperature for 15 minutes. Dried toluene (10 ml) was added to the mixture, to which was further added dropwise dimethylsulfate (1.39 g, 0.011 mole) under ice cooling. After completion of the addition, the mixture was stirred at room temperature for 1.5 hours. Then, ether (100 ml) was added, followed by washing with water three times. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester (1.20 g, yield: 84.1%) as colorless crystals (melting point: 109°-110° C.).

reactant | E-α-hydroxyimino-2-phenoxyphenylacetic acid | 0.005 mole, 1.29 g | O\N=C(\C(=O)O)/C1=C(C=CC=C1)OC1=CC=CC=C1 | C14H11NO4
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | potassium hydroxide | 0.011 mole, 0.73 g | [OH-].[K+]
reactant | dimethylsulfate | 0.011 mole, 1.39 g | COS(=O)(=O)OC | C2H6O4S
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester | 1.20 g, yield: 84.1% | COC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C16H15NO4
